US06747027B1
To a solution of 3.5 mL (3.54 g, 58 mmol) of ethanolamine in 20 mL of THF and 5 mL of water, was added 10.7 mL of triethylamine. After cooling in an ice bath, 10.53 g (51 mmol) of para-methoxybenzenesulfonyl chloride was slowly added over ten minutes. After stirring at room temperature for 1 hour, the solvent was removed under reduced pressure and ethyl acetate and water added. The organic layer was separated, washed with 5% KHSO4 and brine, dried over sodium sulfate, filtered and stripped to afford 10.3 g of the desired N-(2-hydroxyethyl)-4-methoxybenzenesulfonamide, m/e=238 (M+Li).

reactant | ethanolamine | 58 mmol, 3.5 mL, 3.54 g | C(O)CN | C2H7NO
reactant | triethylamine | 10.7 mL | C(C)N(CC)CC | C6H15N
reactant | para-methoxybenzenesulfonyl chloride | 51 mmol, 10.53 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | N-(2-hydroxyethyl)-4-methoxybenzenesulfonamide | 10.3 g | OCCNS(=O)(=O)C1=CC=C(C=C1)OC | C9H13NO4S
